US08242125B2
149-C. tert-butyl (4-(1-(5-cyclopropyl-1-methyl-1H-pyrazol-3-ylcarbamoyl)-1H-indol-5-yloxy)pyridin-2-yl)methyl(methyl)carbamate
To a solution of tert-butyl (4-(1H-indol-5-yloxy)pyridin-2-yl)methyl(methyl)carbamate (115 mg, 0.325 mmol), in DMF (5 ml) is added phenyl 5-cyclopropyl-1-methyl-1H-pyrazol-3-ylcarbamate (126 mg, 0.488 mmol), prepared as described in Example 5-N. The resulting mixture is placed at 0° C. and sodium hydride (60% dispersion in oil; 39.0 mg, 0.98 mmol) is added. The reaction is permitted to stir at 0° C. for 30 min at which time the reaction is quenched with saturated aqueous NH4Cl. The resulting mixture is diluted with brine and DCM. The resulting layers are separated and the aqueous layer is extracted twice with DCM. The organic layers are combined, dried over anhydrous Na2SO4, filtered, and concentrated. The resulting residue is purified via FCC (0-100% EtOAc/heptane) to give the title compound. MS (ESI) m/z 517.6 (M+1).

reactant | tert-butyl (4-(1H-indol-5-yloxy)pyridin-2-yl)methyl(methyl)carbamate | 0.325 mmol, 115 mg | N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)CN(C(OC(C)(C)C)=O)C | C20H23N3O3
reactant | phenyl 5-cyclopropyl-1-methyl-1H-pyrazol-3-ylcarbamate | 0.488 mmol, 126 mg | C1(CC1)C1=CC(=NN1C)NC(OC1=CC=CC=C1)=O | C14H15N3O2
reactant | sodium hydride | 0.98 mmol, 39.0 mg | [H-].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | tert-butyl (4-(1-(5-cyclopropyl-1-methyl-1H-pyrazol-3-ylcarbamoyl)-1H-indol-5-yloxy)pyridin-2-yl)methyl(methyl)carbamate | C1(CC1)C1=CC(=NN1C)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)CN(C(OC(C)(C)C)=O)C | C28H32N6O4
